US05866567
(3aR*,10aS*)-9-(4-Aminobenzyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one
(3aR*,10aS*)-9-(4-Nitrobenzyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one (5.06 g, 15 mmol) and 10% palladium-on-carbon (hydrous) (0.5 g) were suspended in THF (15 mL)-methanol (15 mL) and the suspension was stirred under hydrogen at room temperature for 4.5 hours. The catalyst was then filtered off and the filtrate was concentrated under reduced pressure. The residue was crystallized from ethyl acetate-hexane to provide 3.27 g (yield 71%) of the title compound. m.p. 149.1°-149.6° C.

reactant | (3aR*,10aS*)-9-(4-Nitrobenzyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | 15 mmol, 5.06 g | [N+](=O)([O-])C1=CC=C(CN2C3=C(N[C@H]4[C@@H](C2=O)CCC4)C=CC=C3)C=C1 | C19H19N3O3
reactant | methanol | 15 mL | CO | CH4O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
catalyst | palladium-on-carbon | 0.5 g | [Pd] | Pd
product | (3aR*,10aS*)-9-(4-Aminobenzyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | 3.27 g, yield 71% | NC1=CC=C(CN2C3=C(N[C@H]4[C@@H](C2=O)CCC4)C=CC=C3)C=C1 | C19H21N3O
